* Extracted by KLayout with GF180MCU LVS runset on : 10/08/2026 15:32

.SUBCKT cg_amp_tia V_ref V_bias I_in V_out VSS
R$1 V_out V_ref VSS 2700 ppolyf_u_1k L=8.1U W=3U
M$2 V_out V_bias I_in VSS nfet_03v3 L=0.5U W=5U AS=3.05P AD=3.05P PS=11.22U
+ PD=11.22U
.ENDS cg_amp_tia
